data/oMe_Silver.jsonl
{"reaction_id": "NR-139_1-c1ccccc1_2-CC_3-C1(CCCCC1)C_4-c1cscn1","name": "Markó-Lam Deoxygenation","level": "medium","reactants_smiles": ["C(OC(=O)c1cscn1)(c1ccccc1)(CC)(C1(CCCCC1)C)"],"products_smiles": ["C(c1ccccc1)(CC)(C1(CCCCC1)C)"],"conditions": "SmI2, HMPA","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "C(O[C]([O][Sm](I)I)c1cscn1)(c1ccccc1)(CC)(C1(CCCCC1)C)","rationale": "SmI2 is a strong single-electron donor; coordination to the carbonyl oxygen and electron transfer generate a radical anion stabilized by resonance with the carbonyl group."},{"step": 2,"type": "elimination","subtype": "radical_elimination","intermediate_smiles": "[C](c1ccccc1)(CC)(C1(CCCCC1)C)","rationale": "The radical anion undergoes C–O bond cleavage because the alkoxy leaving group is stabilized by Sm(III) coordination, favoring radical elimination."},{"step": 3,"type": "substitution","subtype": "radical_substitution","intermediate_smiles": "C(c1ccccc1)(CC)(C1(CCCCC1)C)","rationale": "The carbon-centered radical abstracts a hydrogen atom from the solvent or SmI2–HMPA complex, driven by formation of a strong C–H bond and radical quenching."}],"description": "SmI2 mediates a single-electron reduction of the ester, generating a radical anion that fragments to release the alkoxy radical. Subsequent elimination yields a carbon-centered radical, which abstracts hydrogen to give the fully deoxygenated product under mild, reductive conditions."}
{"reaction_id": "NR-108_1-c1ccccc1_2-c1ccc(N(C)C)cc1_3-C(C)(C)C","name": "Hofmann-Löffler-Freytag Reaction","level": "medium","reactants_smiles": ["ClN(C(C)(C)C)CCCC(c1ccccc1)c1ccc(N(C)C)cc1"],"products_smiles": ["N(C(C)(C)C)CCCC(c1ccccc1)(c1ccc(N(C)C)cc1)(Cl)"],"conditions": "Heat or hv","mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[N](C(C)(C)C)CCCC(c1ccccc1)c1ccc(N(C)C)cc1","rationale": "Heat or light promotes homolytic N–Cl bond cleavage, favored by the weak bond and the stability of the nitrogen-centered radical through lone pair and adjacent substituent effects."},{"step": 2,"type": "rearrangement","subtype": "radical_rearrangement","intermediate_smiles": "N(C(C)(C)C)CCC[C](c1ccccc1)c1ccc(N(C)C)cc1","rationale": "The nitrogen radical abstracts a γ-hydrogen via a 1,5-hydrogen shift, favored by a six-membered transition state and minimal steric hindrance, generating a stabilized carbon radical."},{"step": 3,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "N(C(C)(C)C)CCCC(c1ccccc1)(c1ccc(N(C)C)cc1)(Cl)","rationale": "The carbon radical couples with a chlorine atom due to the strong C–Cl bond formation and the high reactivity of the radical, completing the intramolecular halogenation."}],"description": "Under photochemical or thermal conditions, the Hofmann–Löffler–Freytag reaction proceeds via nitrogen-centered radical formation, intramolecular hydrogen abstraction to form a carbon radical, and radical halogenation to yield the chlorinated amine product with high regioselectivity due to favorable 1,5-hydrogen transfer."}
